US05221757
Next, the ethyl 12-(tert-butyldimethylsilyloxy)octadecanoate thus obtained was introduced into a 100-ml flask equipped with a stirrer and 20 ml of ethanol and 2.24 g (20 mmol) of a 50% aqueous solution of KOH were added thereto. The obtained mixture was stirred at room temperature for 4 hours. After the completion of the reaction, the reaction mixture thus obtained was neutralized with hydrochloric acid and extracted with chloroform. After removing the solvent under reduced pressure, 4.0 g of 12-(tert-butyldimethylsilyloxy)octadecanoic acid was obtained (yield: 96.4 %).

reactant | ethyl 12-(tert-butyldimethylsilyloxy)octadecanoate | [Si](C)(C)(C(C)(C)C)OC(CCCCCCCCCCC(=O)OCC)CCCCCC | C26H54O3Si
reactant | KOH | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 12-(tert-butyldimethylsilyloxy)octadecanoic acid | 4.0 g, yield: 96.4 % | [Si](C)(C)(C(C)(C)C)OC(CCCCCCCCCCC(=O)O)CCCCCC | C24H50O3Si
